US04672066
4-(4-Acetyl-3-hydroxy-2-propylphenoxy)-2-methyl butanoic acid was allowed to react with 3-pyridine butanamine according to procedure A and the product was purified by HPLC to give 4-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-methyl-N-[4-(3-pyridinyl)butyl]butanamide, the title compound as an oil in 89% yield.

reactant | 4-(4-Acetyl-3-hydroxy-2-propylphenoxy)-2-methyl butanoic acid | C(C)(=O)C1=C(C(=C(OCCC(C(=O)O)C)C=C1)CCC)O | C16H22O5
reactant | 3-pyridine butanamine | N1=CC(=CC=C1)CCCCN | C9H14N2
product | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-methyl-N-[4-(3-pyridinyl)butyl]butanamide | C(C)(=O)C1=C(C(=C(OCCC(C(=O)NCCCCC=2C=NC=CC2)C)C=C1)CCC)O | C25H34N2O4
